US05490952
4-Chloro-2-methyl-2-butene (2.00 mmol) was weighed into a vial and sealed with a septum. Using a freeze-pump-thaw technique, air was removed and replaced with argon. THF (4 ml) was added to the vial and then cooled to -78° C. The allyl chloride was then cannulated to the active coppersolution (8.00 mmol) at -108° C. The solution was stirred at -108° C. for 10 minutes and then warmed to -95° C. Benzoyl chloride (8.80 mmol) and decane (2.00 mmol) were admixed with 4 ml of THF in a vial, cooled to -78° C. and then cannulated to the organocopper solution at -95° C. The reaction mixture was allowed to warm to -78° C. and stirred for 30 minutes. The solution was then quenched with saturated NH4Cl(aq), extracted with ether (3×20 ml), washed with brine (3×50 ml), and the organic layer dried over MgSO4. Flash silica gel chromatography using hexanes afforded 2,2-dimethyl-1-phenyl-3-butene-1-one (1.12 mmol), for a 56% yield: IR (neat) 3085, 3059, 2975, 2934, 2872, 1679, 1635, 1597, 1578, 1466, 1412, 1380, 1363, 1259, 1173, 1157, 1001, 971, 918, 796,719,694, 667. 1H NMR (300 MHz) 7.85-7.89 (m, 2H), 7.32-7.46 (m, 3H), 6.11-6.26 (dd, J1 =17.52 Hz, J2 =10.63 Hz, 1H), 5.17-5.27 (m, 2H), 1.39 (s, 6H). 13C NMR (300 MHz) 204.5, 143.8, 137.1, 131.5, 129.1, 127.8, 113.9, 50.1, 25.9.

reactant | 4-Chloro-2-methyl-2-butene | 2.00 mmol | ClCC=C(C)C | C5H9Cl
reactant | Benzoyl chloride | 8.80 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | decane | 2.00 mmol | CCCCCCCCCC | C10H22
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-1-phenyl-3-butene-1-one | 1.12 mmol, 56% yield | CC(C(=O)C1=CC=CC=C1)(C=C)C | C12H14O
